US05260377
The 1-chloro-1-phenyl-1-silacyclobutane was reacted with lithium aluminum hydride in ethyl ether to obtain 1-phenyl-1-silacyclobutane. The 1-chloro-1-phenyl-1-silacyclobutane (8.4 g, 46 mmole) in 10 ml diethyl ether was added dropwise to 0.87 g 23 mmole of lithium aluminum hydride in 10 ml diethyl ether at ±5° C. The reaction mixture warmed gradually to room temperature. The mixture was stirred over 12 hours. The mixture was hydrolyzed with 3N hydrochloric acid. After separation, the water layer was extracted with 2×20 ml of ethyl ether. The combined organic layer was dried over anhydrous sodium sulfate. Removal of solvent and fractional distillation gave 1-phenyl-1-silacyclobutane. b.p. 70°-72° C./20 mm Hg, 6.3 g, 92% yield was obtained. 1H NMR (δ) 1.39 (m, 4H), 2.31 (m, 2H), 5.25 (m, 1H), 7.46 (m, 3H), 7.70 (m, 2H). 13C NMR (δ) 12.71, 19.67, 127.98, 129.88, 134.35, 135.19, 29Si NMR (δ) -1.80.

reactant | 1-chloro-1-phenyl-1-silacyclobutane | 46 mmole, 8.4 g | Cl[Si]1(CCC1)C1=CC=CC=C1 | C9H11ClSi
reactant | lithium aluminum hydride | 23 mmole, 0.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-phenyl-1-silacyclobutane | 92% yield | C1(=CC=CC=C1)[SiH]1CCC1 | C9H12Si
